US06159964
a) tert-Butyl [[1-[N-[[2-[(2-pyridinyl)amino]ethyl]carbonyl]tyrosyl]-4-piperidinyl]oxy]acetate
A mixture of tert-butyl [(1-tyrosyl-4-piperidinyl)oxy]acetate, Alig, et. al., EP 372486, (1 mmol), N-(2-pyridinyl)-β-alanine, Chowdhary, et. al., Indian J. Chem., 1990, 29A, 280-284, (1 mmol), EDC (1.5 mmol), and DIEA (3 mmol) in DMF (25 mL) is stirred at RT. The mixture is poured into 5% NaHCO3 and extracted with EtOAc. The combined orgainic phase is washed with H2O, dried (MgSO4) and concentrated. The residue is chromatographed (silica gel) to give the title compound.

reactant | tert-butyl [(1-tyrosyl-4-piperidinyl)oxy]acetate | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N1CCC(CC1)OCC(=O)OC(C)(C)C | C20H30N2O5
reactant | N-(2-pyridinyl)-β-alanine | 1 mmol | N1=C(C=CC=C1)NCCC(=O)O | C8H10N2O2
reactant | EDC | 1 mmol
reactant | DIEA | 3 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | tert-Butyl [[1-[N-[[2-[(2-pyridinyl)amino]ethyl]carbonyl]tyrosyl]-4-piperidinyl]oxy]acetate | N1=C(C=CC=C1)NCCC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N1CCC(CC1)OCC(=O)OC(C)(C)C | C28H38N4O6
